US07273875B2
4-[8-(3-Methoxy-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid
Potassium hydroxide (2 M, 0.9 ml) is added to a solution of 4-[8-(3-Methoxy-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester (230 mg, 0.6 mmol) in THF/ethanol (6 ml:2 ml) and heated at 80° C. for 3 hours. The solution is then diluted with ethyl acetate (120 ml) and extracted with water. The aqueous layer is taken to pH 4 with 1M HCl to give a white precipitate, which is extracted into dichloromethane (DCM). The DCM layer is washed with water, then dried over magnesium sulfate, filtered and concentrated to yield the desired product. M.p 209-212° C. MS (AP+) 362.9

reactant | Potassium hydroxide | 2 M, 0.9 ml | [OH-].[K+]
reactant | 4-[8-(3-Methoxy-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester | 0.6 mmol, 230 mg | C(C)OC(=O)C1CCC(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)OC | C24H26N2O3
solvent | THF ethanol | 6 ml | C1CCOC1.C(C)O
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | 4-[8-(3-Methoxy-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid | COC=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)C1CCC(CC1)C(=O)O | C22H22N2O3
